US09278950B2
Step 7. tert-Butyl [(3S)-1-(3-nitro-6,7-dihydro-5H-cyclopenta[b]pyridin-4-yl)piperidin-3-yl]carbamate
A mixture of 4-chloro-3-nitro-6,7-dihydro-5H-cyclopenta[b]pyridine (40.0 mg, 0.201 mmol), tert-butyl (3S)-piperidin-3-ylcarbamate (80.7 mg, 0.403 mmol) and triethylamine (84.2 μL, 0.604 mmol) in isopropyl alcohol (0.462 mL) was stirred at 100° C. for 30 min. The mixture was concentrated and purified by flash chromatography on a silica gel column (12 g column, 0-40% EtOAc in hexanes) to give the sub-title compound as light yellow powder (43 mg, 59%). LCMS calc. for C18H27N4O4 (M+H)+: m/z=363.3. Found: 363.2.

reactant | 4-chloro-3-nitro-6,7-dihydro-5H-cyclopenta[b]pyridine | 0.201 mmol, 40.0 mg | ClC1=C2C(=NC=C1[N+](=O)[O-])CCC2 | C8H7ClN2O2
reactant | tert-butyl (3S)-piperidin-3-ylcarbamate | 0.403 mmol, 80.7 mg | N1C[C@H](CCC1)NC(OC(C)(C)C)=O | C10H20N2O2
reactant | triethylamine | 0.604 mmol, 84.2 μL | C(C)N(CC)CC | C6H15N
solvent | isopropyl alcohol | 0.462 mL | C(C)(C)O | C3H8O
product | tert-Butyl [(3S)-1-(3-nitro-6,7-dihydro-5H-cyclopenta[b]pyridin-4-yl)piperidin-3-yl]carbamate | 43 mg, 59% | [N+](=O)([O-])C=1C(=C2C(=NC1)CCC2)N2C[C@H](CCC2)NC(OC(C)(C)C)=O | C18H26N4O4
